US09315526B2
6-{2-[(Cyclohexylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde (4).
A solution of 21.2 g (74.1 mmol) of Na2CO3×10H2O in 660 ml of water and 190 ml of methanol was purged with argon for 30 min. The obtained solution was added to a mixture of 29.9 g (80.0 mmol) of cyclohexyl{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}amine, 14.0 g (80.0 mmol) of 6-bromopyridine-2-carbaldehyde, 4.62 g (4.00 mmol) of Pd(PPh3)4, and 780 ml of toluene in argon atmosphere. This mixture was refluxed for 10 h using a mechanical stirrer, then cooled to room temperature. The organic layer was separated, dried over Na2SO4, evaporated to 300 ml in volume, and then extracted with 3×300 ml of 2M HCl. The combined aqueous layer was alkalified to pH 10 by the saturated aqueous K2CO3, and then extracted with 3×200 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and evaporated to dryness. Yield 23.1 g (84%) of a brown oil. Anal. Calc for C23H24N2O: C 80.20; H 7.02; N 8.13. Found: C 80.78; H 7.11; N 8.01.1H NMR (CDCl3): δ 10.08 (s, 1H, CHO), 7.96-8.03 (m, 2H, 3-H, 4-H in Py), 7.83-7.89 (m, 2H, 8,5-H in Py), 7.59-7.64 (m, 2H, 5-H in Py and 4-H in naphthyl), 7.39-7.43 (m, 1H, 6-H in naphthyl), 7.30-7.34 (m, 1H, 7-H in naphthyl), 7.20-7.23 (m, 1H, 3-H in naphthyl), 3.56 (m, 2H, CH2), 2.21 (m, 1H, 1-H in Cy), 1.57-1.66 (m, 4H, Cy), 1.02-1.11 (m, 4H, Cy), 0.88-0.96 (m, 2H, Cy).

reactant | Na2CO3 | 74.1 mmol, 21.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 190 ml | CO | CH4O
reactant | cyclohexyl{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}amine | 80.0 mmol, 29.9 g | C1(CCCCC1)NCC1=C(C2=CC=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C23H32BNO2
reactant | 6-bromopyridine-2-carbaldehyde | 80.0 mmol, 14.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
solvent | water | 660 ml | O | H2O
catalyst | Pd(PPh3)4 | 4.00 mmol, 4.62 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 780 ml | C1(=CC=CC=C1)C | C7H8
product | 6-{2-[(Cyclohexylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde | C1(CCCCC1)NCC1=C(C2=CC=CC=C2C=C1)C1=CC=CC(=N1)C=O | C23H24N2O
